US04859662
8-Fluoro-9-methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one
To a suspension of sodium hydride (80% dispersion in oi; 1.15 g) in dry THF (50 ml) under nitrogen was added 8-fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one (6.5 g) in dry THF (50 ml), and the mixture was stirred for 1 h. Methyl iodide (4.1 ml) was added, and the mixture was stirred for 3 h. The mixture was then poured into brine (300 ml) and extracted with ether (2×300 ml). The combined, dried organic extracts were evaporated in vacuo to give the title compound (5.77 g), m.p. 126°-128°.

reactant | sodium hydride | 1.15 g | [H-].[Na+]
reactant | 8-fluoro-1,2,3,9-tetrahydro-4H-carbazol-4-one | 6.5 g | FC=1C=CC=C2C=3C(CCCC3NC12)=O | C12H10FNO
reactant | Methyl iodide | 4.1 ml | CI | CH3I
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | brine | 300 ml | [Cl-].[Na+].O
product | 8-Fluoro-9-methyl-1,2,3,9-tetrahydro-4H-carbazol-4-one | 5.77 g | FC=1C=CC=C2C=3C(CCCC3N(C12)C)=O | C13H12FNO
